US07297707B2
(n) (3,4-Dimethoxy-phenyl)-(6-nitro-benzothiazol-2-yl)-amine
The title compound was synthesised from 2-Chloro-6-nitro-benzothiazole (commercially available) and 3,4-dimethoxyaniline (commercially available) according to the procedure described for Example 1a) above. MS (m/e): 332.2 (MH+, 100%).

reactant | 2-Chloro-6-nitro-benzothiazole | ClC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H3ClN2O2S
reactant | 3,4-dimethoxyaniline | COC=1C=C(N)C=CC1OC | C8H11NO2
product | (3,4-Dimethoxy-phenyl)-(6-nitro-benzothiazol-2-yl)-amine | COC=1C=C(C=CC1OC)NC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C15H13N3O4S
